US09370522B2
3-(4-tert-Butylphenyl)-2-phenylquinoxaline-6-carboxylic acid
The product was obtained via a Suzuki coupling reaction using the method previously shown in Example 20, Step 3, using methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (100 mg, 0.29 mmol, 1.00 equiv) and 4-tert-butylphenylboronic acid (83 mg, 0.47 mmol, 1.50 equiv) as reactants. Purification via prep-TLC resulted in 30 mg (27%) of 3-(4-tert-butylphenyl)-2-phenylquinoxaline-6-carboxylic acid as a white solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.29 mmol, 100 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 4-tert-butylphenylboronic acid | 0.47 mmol, 83 mg, 1.50 equiv | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
product | 3-(4-tert-Butylphenyl)-2-phenylquinoxaline-6-carboxylic acid | C(C)(C)(C)C1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C25H22N2O2
